US07504408B2
4-{3-[(4-{[5-chloro-7-(3-methoxyprop-1-yn-1-yl)-1,3-benzodioxol-4-yl]amino}-5-isopropoxyquinazolin-7-yl)oxy]propyl}-1-methylpiperazin-2-one
A mixture N-[5-chloro-7-(3-methoxyprop-1-yn-1-yl)-1,3-benzodioxol-4-yl]-7-(3-chloropropoxy)-5-isopropoxyquinazolin-4-amine (0.320 g, as a 1:1.3 wt.:wt. mixture with triphenylphosphine) and 1-methylpiperazin-2-one (0.280 g) was dissolved in 2-methoxyethanol (7 ml), then sodium iodide (0.040 g) was added and the reaction mixture was then heated at 110° C. with stirring for 24 hours. The reaction mixture was then cooled to room temperature, diluted with dichloromethane (70 ml) and washed with water:brine (1:1) then water then brine and dried over magnesium sulfate before filtration and evaporation of solvents under reduced pressure. The residues so resulting were then purified by column chromatography on silica using increasingly polar mixtures of methanol in dichloromethane as eluent. There was thus obtained 4-(3-{4-[5-chloro-7-(3-methoxy-prop-1-ynyl)-benzo[1,3]dioxol-4-ylamino]-5-isopropoxy-quinazolin-7-yloxy}-propoxy)-1-methyl-piperazin-2-one (0.086 g) as a white foam; NMR Spectrum: (CDCl3) 1.53 (d, 6H), 2.02 (quin, 2H), 2.61 (t, 2H), 2.72 (t, 2H), 2.96 (s, 3H), 3.18 (s, 2H), 3.33 (t, 2H), 3.45 (s, 3H), 4.15 (t, 2H), 4.35 (s, 2H), 4.83 (sept, 1H), 6.10 (s, 2H), 6.49 (d, 1H), 6.82 (d, 1H), 7.05 (s, 1H), 8.51 (s, 1H), 9.41 (s, 1H); Mass Spectrum: M+H+ 596/598.

reactant | N-[5-chloro-7-(3-methoxyprop-1-yn-1-yl)-1,3-benzodioxol-4-yl]-7-(3-chloropropoxy)-5-isopropoxyquinazolin-4-amine | ClC1=C(C2=C(OCO2)C(=C1)C#CCOC)NC1=NC=NC2=CC(=CC(=C12)OC(C)C)OCCCCl | C25H25Cl2N3O5
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1-methylpiperazin-2-one | 0.280 g | CN1C(CNCC1)=O | C5H10N2O
reactant | sodium iodide | 0.040 g | [I-].[Na+]
solvent | 2-methoxyethanol | 7 ml | COCCO | C3H8O2
solvent | dichloromethane | 70 ml | ClCCl | CH2Cl2
product | 4-{3-[(4-{[5-chloro-7-(3-methoxyprop-1-yn-1-yl)-1,3-benzodioxol-4-yl]amino}-5-isopropoxyquinazolin-7-yl)oxy]propyl}-1-methylpiperazin-2-one | ClC1=C(C2=C(OCO2)C(=C1)C#CCOC)NC1=NC=NC2=CC(=CC(=C12)OC(C)C)OCCCN1CC(N(CC1)C)=O | C30H34ClN5O6
